US07701129B2
2,7-di bromo fluorene (25 g, 77 mmol), octylbromide (44.7 g, 0.596 mols), sodium hydroxide (37.5 g, 0.937 mols), and tetrabutyl ammonium bromide (0.5 g, 1.55 mmol) were dissolved in dimethyl sulfoxide (75 ml)-water (37.5 ml) mixed solvent. It was kept warm at 80° C. for 6 hours. After cooling, toluene (100 ml) and water (100 ml) were added, and the organic layer was partitioned. The organic layer is washed with water, 3% hydrochloric acid, and water, and then dehydrated with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the crude product was purified by silica-gel chromatography, and 2,7-dibromo-9,9-dioctylfluorene was obtained. (Amount: 26.85 g, yield: 79%)

reactant | 2,7-di bromo fluorene | 77 mmol, 25 g | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | octylbromide | 0.596 mols, 44.7 g | C(CCCCCCC)Br | C8H17Br
reactant | sodium hydroxide | 0.937 mols, 37.5 g | [OH-].[Na+]
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | dimethyl sulfoxide | 75 ml | CS(=O)C | C2H6OS
catalyst | tetrabutyl ammonium bromide | 1.55 mmol, 0.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 37.5 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2,7-dibromo-9,9-dioctylfluorene | yield: 79% | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCCCCCC)CCCCCCCC | C29H40Br2
